US07470716B2
Ethyl 2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate
A solution of 3.00 g ethyl 5-amino-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate in 36 ml 2 M hydrochloric acid is cooled to 0° C. To this is added a solution of 0.60 g sodium nitrite in 2 ml of water and the reaction mixture is stirred for 1 h at 0° C. Then 8.4 ml hypophosphorous acid are added and the mixture is stirred for a further 14 h at 0° C. Then the reaction mixture is added to ice-cooled aqueous potassium carbonate solution and extracted with dichloromethane. The organic extracts are dried over sodium sulphate and evaporated down. The residue is dissolved in 8 ml dichloromethane, and 1.62 g di-tert-butyl carbonate are added. The solution is stirred for 2 h at ambient temperature, then evaporated to dryness and chromatographed on silica gel (cyclohexane/ethyl acetate 7:3->1:1).

reactant | ethyl 5-amino-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate | 3.00 g | NC1=C(N(C(=N1)N1CC(CCC1)NC(=O)OC(C)(C)C)CC#CC)C(=O)OCC | C20H31N5O4
reactant | sodium nitrite | 0.60 g | N(=O)[O-].[Na+]
reactant | hypophosphorous acid | 8.4 ml | [PH2](=O)O | H3O2P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 2 M, 36 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
product | Ethyl 2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate | C(C)(C)(C)OC(=O)NC1CN(CCC1)C1=NC=C(N1CC#CC)C(=O)OCC | C20H30N4O4
